Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
BRBPR, lightheadedness
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
Mr. ___ is a ___ year old man with history of presenting 
with 1 day of BRBPR.

Patient reports no known significant past medical history though 
has not seen a physician in quite some time. He has been feeling 
well. This morning moved his bowels and noted bright red blood 
on toilet paper. He had 3 subsequent bloody bowel movements 
which prompted him to present for further evaluation. He did not 
note any abdominal pain, nausea, vomiting. He did note 
lightheadedness, no dizziness, weakness, syncope. He has not had 
chest pain, palpitations, shortness of breath, cough, wheeze. He 
has never had colonoscopy. He has been taking daily aspirin. 

In the ED, initial vitals:  
97.7 ___ 18 100% RA 

Rectal exam with bright red blood. 

Labs were significant for  
WBC 14.1 H/H 12.1/35.7 with elevated MCV 103 plts 300 INR 1, 
normal PTT, chem panel with Cr 0.9, BUN 18. AG 21

Patient received 1L IVF.

Vitals prior to transfer:  
105 143/90 18 99% RA 
 
On the floor, patient is comfortable with "girgly" feeling in 
stomach. No lightheadedness, chest pain, palpitations.  
 
ROS:  
As above per HPI otherwise patient denies fevers, chills, weight 
loss, nightsweats, dysuria. 
 
Past Medical History:
Dupuytren's contracture 
 
Social History:
___
Family History:
Father with prostate cancer
Mother with liver disease secondary to etoh
multiple family members with CVA
no known history of cancer, DM2, HTN
 
Physical Exam:
ADMISSION EXAM:
VS:  98.1 178/80 90 20 100% on RA 
GEN: Alert, very pleasant,lying in bed, comfortable appearing, 
no acute distress  
HEENT: MMM, anicteric sclera, no conjunctival pallor, oropharynx 
without erythema or exudate 
NECK: Supple without LAD  
PULM: Clear, no wheeze, crackles, or rhonchi  
COR: tachycardic, normal S1/S2, no murmurs 
ABD: Soft, non distended, non tender to deep palpation, normal 
BS, + reducible umbilical hernia  
EXTREM: Warm, no edema; bilateral dupuytren's contractures  
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE EXAM:
VS:  98.9 170/90 64 20 98% on RA
GEN: Alert, very pleasant, lying in bed, comfortable appearing, 
no acute distress  
HEENT: MMM, anicteric sclera, no conjunctival pallor, oropharynx 
without erythema or exudate 
NECK: Supple without LAD  
PULM: Clear, no wheeze, crackles, or rhonchi  
COR: regular rate and rhythm, normal S1/S2, no murmurs 
ABD: Soft, non distended, non tender to deep palpation, normal 
BS, + reducible umbilical hernia  
EXTREM: Warm, no edema; bilateral dupuytren's contractures  
NEURO: CN II-XII grossly intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION:

___ 11:20AM BLOOD WBC-14.1* RBC-3.47* Hgb-12.1* Hct-35.7* 
MCV-103* MCH-34.9* MCHC-33.9 RDW-13.2 RDWSD-49.9* Plt ___
___ 11:20AM BLOOD Neuts-76.2* Lymphs-14.3* Monos-8.4 
Eos-0.0* Baso-0.7 Im ___ AbsNeut-10.74* AbsLymp-2.02 
AbsMono-1.19* AbsEos-0.00* AbsBaso-0.10*
___ 11:20AM BLOOD ___ PTT-30.6 ___
___ 11:20AM BLOOD Glucose-146* UreaN-18 Creat-0.9 Na-138 
K-4.2 Cl-99 HCO3-22 AnGap-21*
___ 11:20AM BLOOD ALT-15 AST-23 AlkPhos-50 TotBili-0.4
___ 11:20AM BLOOD Albumin-5.0
___ 07:39PM BLOOD Iron-208*
___ 07:39PM BLOOD calTIBC-282 Ferritn-93 TRF-217
___ 08:13PM BLOOD Lactate-1.7

DISCHARGE:

___ 03:20PM BLOOD WBC-7.3 RBC-2.54* Hgb-9.0* Hct-26.1* 
MCV-103* MCH-35.4* MCHC-34.5 RDW-12.9 RDWSD-49.1* Plt ___
___ 05:54AM BLOOD ___ PTT-32.7 ___
___ 05:54AM BLOOD Glucose-80 UreaN-10 Creat-0.6 Na-144 
K-4.2 Cl-113* HCO3-19* AnGap-16
___ 05:54AM BLOOD Calcium-8.6 Phos-2.8 Mg-1.9

STUDIES:
COLONOSCOPY ___:
Diverticulosis of the sigmoid colon
Polyp in the sigmoid colon
The prep was inadequate for colon cancer screening due to 
significant particulate matter in the right colon that could not 
be cleared despite rigorous washing and suctioning.
Internal hemorrhoids
Otherwise normal colonoscopy to terminal ileum

STUDIES PENDING AT DISCHARGE:
-sigmoid colon biopsy
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with no known 
significant past medical history, etoh abuse, who presents with 
bright red blood per rectum found to have diverticulosis. 

#GI Bleed:
Patient with bright red blood blood per rectum and macrocytic 
anemia concerning for GI bleed. Colonoscopy with polyp, internal 
hemorrhoids, diverticulosis. Bleeding source most likely 
diverticulosis. Patient will need follow up screening 
colonoscopy as outpatient. He did not require blood transfusions 
during this admission. His aspirin for primary prevention was 
discontinued secondary to bleed.  

#ETOH Abuse:
Patient drinks ___ glasses of wine/day. He has signs of etoh 
abuse with duptuytrens, macrocytic anemia. No history of 
withdrawal. Patient was monitored with CIWA scale, did not 
require benzodiazepenes for withdrawal. Patient was counseled on 
importance of cutting back on alcohol consumption and started on 
multivitamin, folic acid, and thiamine.

#Hypertension:
Patient with elevated BPs 160s-170s. Likely has history of 
hypertension without diagnosis. Started amlodipine 5mg PO daily 
with plan for outpatient uptitration.

TRANSITIONAL ISSUES:
====================

[ ] HTN: Patient without recent access to health care, noted to 
be hypertensive with SBP 160s-170s, started on amlodipine 5mg PO 
daily. Repeat BP and uptitrate prn
 
[ ] Repeat H/H at PCP follow up, on discharge ___

[ ] Continue to counsel patient on ETOH consumption

[ ] Patient will need outpatient colonoscopy for colon cancer 
screening given limited preparation

[ ] Consider restarting aspirin, stopped with GI bleed (patient 
on for primary prevention)

# CODE STATUS: full, confirmed 
# CONTACT: husband ___ cell ___ home ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulosis
GI Bleed
Alcohol Abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your admission to 
___. You came into the hospital 
because of bleeding from your rectum. We monitored you closely 
and you did not require any blood transfusions. You had a 
colonoscopy that showed a polyp and diverticulosis. Your 
bleeding stopped without any intervention. 

Please continue to hold your aspirin until follow up with your 
new primary care physician. We also recommend that you cut back 
on your alcohol consumption.

Be well and take care.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___